* C:\users\jesus\Mis Documentos\UTSA\Pregrado\Potencia\Labs\Lab6\SPWM.asc
XU1 0 N001 N006 Vcc N007 N001 N004 Vcc NE555
C1 N007 0 10n
C2 N001 0 1µ
V1 Vcc 0 5
R1 N001 N004 10k
R2 Vcc N004 2.2k
C3 N005 0 470µ
L1 N005 N006 10m
C4 N005 Sine 10µ
XU2 0 N009 N015 Vcc N016 N009 N013 Vcc NE555
C5 N016 0 10n
C6 N009 0 100n
R4 N009 N013 10k
R5 Vcc N013 2.2k
XU4 N008 Port Vcc 0 HO OP113
R9 Sine N008 2k
R10 N008 0 10k
R6 N015 N014 15k
R11 N014 Port 15k
C8 N014 0 10n
C9 Port 0 10n
Q1 LO N010 0 0 NPN
R7 N010 HO 1k
R12 LO Vcc 10k
R3 Vcc N008 3k
R8 N008 0 10k
Q2 S1S2 N002 0 0 NPN
V2 VG 0 20
R13 N002 HO 10k
R15 S1S2 VG 10k
Q3 S3S4 N003 0 0 NPN
R14 N003 LO 10k
R16 S3S4 VG 10k
V3 VDD 0 24
M1 VDD S1S2 N011 N011 IRF530
M2 N012 S1S2 0 0 IRF530
M3 VDD S3S4 N012 N012 IRF530
M4 N011 S3S4 0 0 IRF530
R18 N012 N011 10
.model NPN NPN
.model PNP PNP
.lib C:\users\jesus\Mis Documentos\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\jesus\Mis Documentos\LTspiceXVII\lib\cmp\standard.mos
.tran 0 100m 30m 0.1m
.lib ADI.lib
.lib NE555.sub
.backanno
.end
